US06685995B1
Trifluoroacetylbenzotriazole described above in an amount of 4.0 g (18.6 mmol) was dissolved in 50 ml of THF, 2.5 g (8.3 mmol) of 4-(4-(4-hydroxycyclohexyl)cyclohexyl)-1-propylbenzene was added thereto, they were refluxed for 1 hour, and then the solvent was distilled off. After the residue was purified by column chromatography on silica gel (eluent: heptane/ethyl acetate=3/1), the solvent was distilled off. The residue was subjected twice to recrystallization by using mixed solvent of heptane/ethyl acetate (1/5) to give 1.2 g (3.0 mmol) of trifluoroacetic acid 4-(4-(4-propylphenyl)cyclohexyl)cyclohexyl ester. Yield of this compound was 36%.

reactant | Trifluoroacetylbenzotriazole | FC(C(=O)C1=CC=CC=2NN=NC21)(F)F | C8H4F3N3O
reactant | 4-(4-(4-hydroxycyclohexyl)cyclohexyl)-1-propylbenzene | 8.3 mmol, 2.5 g | OC1CCC(CC1)C1CCC(CC1)C1=CC=C(C=C1)CCC | C21H32O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | trifluoroacetic acid 4-(4-(4-propylphenyl)cyclohexyl)cyclohexyl ester | 3.0 mmol, 1.2 g | C(CC)C1=CC=C(C=C1)C1CCC(CC1)C1CCC(CC1)OC(C(F)(F)F)=O | C23H31F3O2
